US06156700
Preparation of 3-[3-(Dichloromethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
A solution of 3-[3-(dibromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (0.750 g, 0.00150 mol) and lithium chloride (0.950 g, 0.0225 mol) in N,N-dimethylformamide is stirred at room temperature for 48 hours and diluted with ethyl acetate. The resultant mixture is washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a foam. Column chromatography of the foam using silica gel, methylene chloride, and a 1% diethyl ether in methylene chloride solution gives the title product as a white foam (0.530 g, mp 148-149° C.).

reactant | 3-[3-(dibromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.00150 mol, 0.750 g | BrC(C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)Br | C14H8Br2F3N3O2S
reactant | lithium chloride | 0.0225 mol, 0.950 g | [Cl-].[Li+]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[3-(Dichloromethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.530 g | ClC(C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)Cl | C14H8Cl2F3N3O2S
